US06096736
5-Methoxycarbonylmethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (183 g) is suspended in methanol (2 liters), and thereto is added a 5N sodium hydroxide (171 ml), and the mixture is stirred at 60° C. for four hours. To the mixture is added a 5N sodium hydroxide (60 ml), and the mixture is stirred at 70° C. for one hour. The mixture is acidified with hydrochloric acid, and concentrated under reduced pressure to remove the methanol. The crystals are collected by filtration, washed with water, and dried to give 5-carboxymethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (142 g).

reactant | 5-Methoxycarbonylmethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 183 g | COC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)N2CCCC2)Cl)=O | C24H27ClN2O3
reactant | sodium hydroxide | 5N, 171 ml | [OH-].[Na+]
reactant | sodium hydroxide | 5N, 60 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 liters | CO | CH4O
product | 5-carboxymethyl-1-[4-(1-pyrrolidinyl)-2-chlorobenzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 142 g | C(=O)(O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)N2CCCC2)Cl)=O | C23H25ClN2O3
